US05516788
cis-4b,5,9b,10-Tetrahydro-4b,8,9b-trimethylindeno[1,2-b]indole
To a solution of 9b,10-dihydro-8,9b-dimethylindeno[1,2-b]indole, (5.05 g, 0.022 mol) in dry tetrahydrofuran (100 cm3) at -78° C., under nitrogen, in a flame dried flask, was added dropwise methyllithium, (1.4M solution in diethyl ether, 23.2 cm3, 0.032 mol). The mixture was stirred at -78° C. for 2 hours and then at -15° C. for a further 1 hour. Saturated ammonium chloride solution (3 cm ) was then added and the mixture allowed to warm to room temperature. The reaction mixture was portioned between ether and saturated ammonium chloride solution and the layers separated. The aqueous phase was extracted with diethyl ether (2×25 cm3) and the combined organic extracts were washed with brine, dried (Na2SO4) and evaporated to afford the title compound as an off white solid. This was purified by flash chromatography on silica gel eluting with 3-10% ethyl acetate/60°-80° petrol to yield a colourless solid. Yield: 2.73 g, 51% .M.p. 208°-212° C. 1H NMR (CDCl3) δ: 7.1-7.3 (4H, m), 6.94 (1H, m), 6.77 (1H, d, J=7.8 Hz), 6.46 (1H, d, J=7.8 Hz), 3.35 (1H, d, J=15.9 Hz), 3.06 (1H, d, J=15.9 Hz), 2.22 (3H, s), 1.46 (3H, s), 1.34 (3H, s).

reactant | 9b,10-dihydro-8,9b-dimethylindeno[1,2-b]indole | 0.022 mol, 5.05 g | CC1=CC=2C3(C(=NC2C=C1)C1=CC=CC=C1C3)C | C17H15N
reactant | methyllithium | C[Li]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 100 cm3 | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | ether | CCOCC | C4H10O
product | cis-4b,5,9b,10-Tetrahydro-4b,8,9b-trimethylindeno[1,2-b]indole | C[C@]12NC=3C=CC(=CC3[C@]1(CC1=CC=CC=C12)C)C | C18H19N
